reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:9])([C:6]#[N:7])[H:8],75.1104225257214
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[N:4]=[C:5](/[O:6][H:14])[H:15])[H:10])([H:7])([H:8])[H:9],45.136341749152
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[O:3][C@:6]([O:7][H:10])([H:11])[C:4]1=[O:5])([H:8])[H:9],60.846238909705
[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11].[C:5](=[O:6])([H:7])[H:14].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],51.407326452043705
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3]([O:4][H:12])=[C:5](/[C:6]([O:7][H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],74.0434815215243
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][H:11])=[C:5]=[N:6][H:10])([H:8])[H:9])[H:7],87.6382814870551
[N:1]1=[N:5][N:4]=[C:3]([H:8])[C:2]1([H:6])[H:7]>>[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1,28.788136175617698
[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[N+:1]([C:2]([O-:3])=[C:4]([O:5][H:10])[H:9])([H:6])([H:7])[H:8],81.9840905232897
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]1[C:4]([H:13])([H:14])[C-:5]=[N+:6]=[C:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],76.4420956913714
[C:1]([N:2]([c:3]1[n:4]([H:12])[n:5][c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],43.74655227193483
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C-:2]([N+:3]1=[C:4]([H:13])[C:5]([H:14])=[N:6][C:7]1([H:11])[H:15])[H:12])([H:8])([H:9])[H:10],98.1452576512339
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:4](=[C:2](/[C:3]([H:12])([H:13])[H:14])[H:11])[C+:5]=[C:6]([O-:7])[H:15])([H:8])([H:9])[H:10],76.26766861469271
[C:1]([C:2](=[O:3])[H:11])([H:7])([H:8])[H:9].[C:4](=[C:5]([O:6][H:10])[H:14])([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],52.179089721611746
[C:1]([C-:2]=[O+:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],24.041842961931003
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[C:3]([O:4][H:11])(=[C:5]=[C:6]([H:7])[H:12])[H:10].[O:1]=[C:2]([H:8])[H:9],41.3819041978984
[C-:6]#[O+:7].[C:1]([O:2][C+:3]([N:4]([H:11])[H:13])[N-:5][H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],29.667710297114102
[C:1]([O:7][C@@:6]1([H:17])[O:2][C:3]([H:11])([H:12])[C@:4]1([C:5]([H:14])([H:15])[H:16])[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],73.13515200276561
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][C:6](=[O:7])[H:13])=[C:5]([H:11])[H:12])([H:8])([H:9])[H:10],53.8525087927969
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O-:4])=[C+:5][C:6](=[C:7]([H:13])[H:15])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],74.9772981310585
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([c:2]1[c:3]([H:9])[o:4][n:6][c:5]1[H:8])[H:7],84.00538263925709
[C:1]([C:2]/[C:3](=[C:4](/[C:5]([O:6][H:14])([H:12])[H:13])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],28.93881723543609
[C:1]([C:2][H:6])([O:3][H:7])([H:4])[H:5]>>[C:1]1([H:4])([H:5])[C:2]([H:6])([H:7])[O:3]1,3.4119887900228036
[O:1]([C:2]([C:3][C:4]([C:5]([O:6][H:10])([H:13])[H:14])([H:11])[H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],12.846606148651695
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[C:4](=[C:5]=[N:6][H:8])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:7],57.873016225967596
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:8])[C:2]([H:9])([H:10])[C:3]1([O:4][H:7])[N:5]([H:11])[H:12],81.63633786175009
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:13])=[C:5]=[N:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],86.95874014505449
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:6](/[O:5][C:4](=[O:3])[H:12])[C:7][H:13])[H:11])([H:8])([H:9])[H:10],62.1032172324719
